US08124760B2
Preparation of 5-(methylsulfonyl)-7-(5-(trifluoromethyl)pyridin-2-yl)-[1,2,4]triazolo[1,5-a]pyrimidine (compound No. 22)
700 mg of m-chloroperbenzoic acid was added to a chroloform 120 mL solution of 420 mg of 5-(methylthio)-7-(5-(trifluoromethyl)pyridin-2-yl)-[1,2,4]triazolo[1,5-a]pyrimidine, followed by reflux with heating for 2 hours. After completion of the reaction, the reaction liquid was returned to room temperature, a 1N sodium hydroxide aqueous solution was added to the reaction liquid, followed by extraction with chloroform, the organic layer was dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=1/1) to obtain 420 mg of the desired product.

reactant | m-chloroperbenzoic acid | 700 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 5-(methylthio)-7-(5-(trifluoromethyl)pyridin-2-yl)-[1,2,4]triazolo[1,5-a]pyrimidine | 420 mg | CSC1=NC=2N(C(=C1)C1=NC=C(C=C1)C(F)(F)F)N=CN2 | C12H8F3N5S
reactant | sodium hydroxide | 1N | [OH-].[Na+]
product | 5-(methylsulfonyl)-7-(5-(trifluoromethyl)pyridin-2-yl)-[1,2,4]triazolo[1,5-a]pyrimidine | 420 mg | CS(=O)(=O)C1=NC=2N(C(=C1)C1=NC=C(C=C1)C(F)(F)F)N=CN2 | C12H8F3N5O2S
